US08802712B2
7,8-Dimethoxy-3H-pyrazolo[3,4-c]quinoline (500 mg, 2.18 mmol) is dissolved in water (40 ml). Bromine (220 μl, 4.36 mmol) is subsequently added dropwise at room temperature with exclusion of light. The reaction solution is then stirred for 1 h. When the reaction is complete, the mixture is evaporated to dryness in vacuo, giving 1-bromo-7,8-dimethoxy-3H-pyrazolo[3,4-c]quinoline (752 mg, purity 85%, 2.07 mmol) as a solid. MS: 308.0/310.0 (M+H+, monobromo isotope distribution), TLC (HPTLC): Rf=0.50 (ethyl acetate/ethanol 8:1, parts by volume).

reactant | 7,8-Dimethoxy-3H-pyrazolo[3,4-c]quinoline | 2.18 mmol, 500 mg | COC=1C(=CC=2C3=C(C=NC2C1)NN=C3)OC | C12H11N3O2
reactant | Bromine | 4.36 mmol, 220 μl | BrBr | Br2
solvent | water | 40 ml | O | H2O
product | 1-bromo-7,8-dimethoxy-3H-pyrazolo[3,4-c]quinoline | 2.07 mmol, 752 mg | BrC1=NNC=2C=NC=3C=C(C(=CC3C21)OC)OC | C12H10BrN3O2
